US08710243B2
3-bromo-1-(phenylsulfonyl)-1H-indole (500 mg, 1.49 mmol) and 5 mol % tetrakis(triphenylphosphine)palladium were mixed in 9 ml degassed DME. The mixture was stirred for 5 min under nitrogen and was then heated to 85° C. 4-Methoxyphenyl boronic acid (1.2 eq) dissolved in 3 ml DME and 5.95 ml sodium hydrogen carbonate (1 M) were simultaneously added drop wise at 85° C. over 5 min. The reaction was stirred at 85° C. for 10 min and then cooled to room temperature. DME was concentrated, water was added and the remaining aqueous mixture was extracted with DCM. The combined organic layers were concentrated and the crude product was purified on silica using EtOAc/n-heptane (1:9 to 2:8) as eluents. 363 mg 3-(4-methoxyphenyl)-1-(phenylsulfonyl)-1H-indole was obtained as white crystals.

reactant | 3-bromo-1-(phenylsulfonyl)-1H-indole | 1.49 mmol, 500 mg | BrC1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C14H10BrNO2S
reactant | 4-Methoxyphenyl boronic acid | 1.2 eq | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | sodium hydrogen carbonate | 1 M, 5.95 ml | C(O)([O-])=O.[Na+]
solvent | DME | 3 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(4-methoxyphenyl)-1-(phenylsulfonyl)-1H-indole | 363 mg | COC1=CC=C(C=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=CC=C1 | C21H17NO3S
